US07427612B2
1-{3-Fluoro-4-[4-(2-fluoro-5-nitro-benzoyl)-piperazin-1-yl]-phenyl}-ethanone
A solution of 2-Fluoro-5-nitro-benzoyl chloride (CAS: 7304-32-7; Feng, Y.; Burgess, K.; Chem.Europ.J.; EN; 5; 11; 1999; 3261-3272) (0.054 g, 0.261 mmol) in dioxane (1 ml) was treated with triethylamine (0.073 ml, 0.522 mmol) and then with a solution of 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone (CAS: 189763-57-3; WO9714690) (58 mg, 0.261 mmol) in dioxane (1 ml). The mixture was stirred at room temperature for 30 minutes. The solvent was removed in vacuo. The crude oil was taken in water. The aqueous layer was extracted 3 times with CH2Cl2. The combined extracts were dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude gum was purified on silicagel (eluent: heptane/ethylacetate 0%-20% (10 minutes) to provide the title compound (69 mg, 68%) as a light yellow solid, MS (m/e): 390.2 (MH+, 100%)

reactant | 2-Fluoro-5-nitro-benzoyl chloride | 0.261 mmol, 0.054 g | FC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | triethylamine | 0.522 mmol, 0.073 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone | 0.261 mmol, 58 mg | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-{3-Fluoro-4-[4-(2-fluoro-5-nitro-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 69 mg, 68% | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O)C(C)=O | C19H17F2N3O4
